US06479536B1
N-(4-Methoxybenzyl)-2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-amine
To a suspension of aluminum chloride (2.25 g, 16.9 mmol) in tetrahydrofuran (20 ml) was gradually added under ice cooling lithium aluminum hydride (640 mg, 16.9 mmol) and the resulting mixture was stirred at the same temperature for 10 minutes. To this mixture was added 4-Methoxy-N-(2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-yl)benzamide (1.40 g, 3.37 mmol) and the mixture was refluxed with heating for 3 hours. The reaction mixture was poured into ice water and neutralized with an 8 N aqueous solution of sodium hydroxide. The product was extracted twice with ethyl acetate. The combined organic layers were washed with water, dried on magnesium sulfate, filtered, and then concentrated under reduced pressure. The residue was crystallized from methanol to obtain 0.80 g (59% yield) of the title compound. Melting point: 113-115° C.

reactant | aluminum chloride | 16.9 mmol, 2.25 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminum hydride | 16.9 mmol, 640 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-Methoxy-N-(2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-yl)benzamide | 3.37 mmol, 1.40 g | COC1=CC=C(C(=O)NC=2C(=C(C3=C(C(C(O3)(C)C)C3=CC=CC=C3)C2C)C)C)C=C1 | C27H29NO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-(4-Methoxybenzyl)-2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-amine | 0.80 g, 59% yield | COC1=CC=C(CNC=2C(=C(C3=C(C(C(O3)(C)C)C3=CC=CC=C3)C2C)C)C)C=C1 | C27H31NO2
